US07718683B2
2-Amino-5-chlorobenzoic acid methyl ester (5 g, 27 mmol) was dissolved in 36 mL pyridine. CBz-Cl (4.2 mL, 29.6 mmol) was then added and the resultant solution was stirred at 60° C. overnight. The following day, LCMS analysis indicated the reaction was complete. The reaction mixture was subsequently poured in a slow stream into 200 mL of rapidly stirring 2 M HCl/H2O. The mixture was transferred to a separatory funnel and extracted with 2×50 mL of EtOAc. The aqueous phase was discarded and the combined organics were dried over sodium sulfate and concentrated in vacuo to provide 6 g of 2-benzyloxycarbonylamino-5-chloro-benzoic acid methyl ester (pale yellow oil, 70% yield): HPLC retention time=3.15 minutes; MS (ES) M+H expected 320.0, found 320.0.

reactant | 2-Amino-5-chlorobenzoic acid methyl ester | 27 mmol, 5 g | COC(C1=C(C=CC(=C1)Cl)N)=O | C8H8ClNO2
reactant | CBz-Cl | 29.6 mmol, 4.2 mL | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
reactant | HCl H2O | 2 M | Cl.O
solvent | pyridine | 36 mL | N1=CC=CC=C1 | C5H5N
product | 2-benzyloxycarbonylamino-5-chloro-benzoic acid methyl ester | 6 g, 70% yield | COC(C1=C(C=CC(=C1)Cl)NC(=O)OCC1=CC=CC=C1)=O | C16H14ClNO4
